US08293909B2
Step 4: Preparation of 2-(4-fluorophenyl)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxylic acid.
Oxone (28 mg, 0.046 mmol) was added to a stirring solution of 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide (20 mg, 0.042 mmol) in DMF (0.5 mL) at room temperature. It was allowed to stir for 3 days. An additional amount of Oxone (28 mg, 0.046 mmol) was added and the reaction was allowed to stir overnight. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated was purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the expected product 2-(4-fluorophenyl)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxylic acid (7 mg, 0.014 mmol, 34% yield) consistent by LCMS and NMR. 1H NMR (500 MHz, MeOD) δ ppm 7.42 (1H, d, J=2.14 Hz), 7.31-7.39 (2H, m), 6.93-7.02 (2H, m), 6.87 (1H, s), 6.59 (2H, t, J=8.70 Hz), 6.34 (1H, t, J=7.63 Hz), 6.20 (2H, d, J=7.63 Hz), 5.97-6.07 (4H, m), 5.92 (1H, t, J=7.32 Hz), 0.52 (6H, s). LC-MS retention time: 1.15 min; m/z (MH+): 495. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | Oxone | 0.046 mmol, 28 mg | OOS(=O)[O-].[K+]
reactant | 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)-N-(2-phenylpropan-2-yl)benzamide | 0.042 mmol, 20 mg | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)NC(C)(C)C3=CC=CC=C3)C=CC2)O1)C=O | C30H23FN2O3
reactant | Oxone | 0.046 mmol, 28 mg | OOS(=O)[O-].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-fluorophenyl)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxylic acid | 0.014 mmol, 7 mg, 34% yield | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O)O1)C(=O)O | C30H23FN2O4
